US05017573
Preparation of 6-fluoro-1H-indazole-3-carboxylic acid:
6-Fluoroisatin prepared according to the method of J. Org. Chem., 21, 169 (1956) is added to a solution of sodium hydroxide (7.4 g) in water (130 ml), and the mixture obtained is gently heated until it dissolves. After the solution is cooled to 0° C., a solution of sodium nitrite (13.8 g) in water (45 ml) is added dropwise to the reaction mixture, and this mixture is poured, in small portions with vigorous stirring, into the sulfuric acid (33.9 g) in water (430 ml) at 0° C. The mixture is stirred for 30 minutes at 0° C. A solution of stannous chloride (85.3 g) in hydrochloric acid (170 ml) is added dropwise to the reaction mixture at 0° C., and the mixture is stirred at 25° C. for 2 hours. The precipitates are collected and washed successively with water, acetone, and methanol, and dried to give the title compound (15.6 g), m.p. > 290° C. Mass spectrum: m/z 180.

reactant | 6-Fluoroisatin | FC1=CC=C2C(C(NC2=C1)=O)=O | C8H4FNO2
reactant | sodium hydroxide | 7.4 g | [OH-].[Na+]
reactant | sodium nitrite | 13.8 g | N(=O)[O-].[Na+]
reactant | sulfuric acid | 33.9 g | S(O)(O)(=O)=O | H2O4S
solvent | water | 130 ml | O | H2O
solvent | water | 45 ml | O | H2O
solvent | water | 430 ml | O | H2O
solvent | hydrochloric acid | 170 ml | Cl | ClH
product | 6-fluoro-1H-indazole-3-carboxylic acid | 15.6 g | FC1=CC=C2C(=NNC2=C1)C(=O)O | C8H5FN2O2
